US08669255B2
tert-butyl (7R,8aS)-7-hydroxyhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate
To a solution of (7R,8aS)-octahydropyrrolo[1,2-a]pyrazin-7-ol (1.0 g, 7.03 mmol) in anhydrous dichloromethane (35 mL) was added di-tert-butyl-dicarbonate (1.714 mL, 7.38 mmol), and the resulting mixture was stirred at room temperature for 16 hours. The mixture was washed with 1 N NaOH (20 mL) and water, and the organic extract was dried over Na2SO4. The drying agent was removed by filtration, and the crude product was purified by column chromatography on silica gel using a solvent gradient of 0-10% methanol in dichloromethane. The title compound was obtained as a colorless oil (0.88 g, 52%).

reactant | (7R,8aS)-octahydropyrrolo[1,2-a]pyrazin-7-ol | 7.03 mmol, 1.0 g | C1[C@H]2N(CCN1)C[C@@H](C2)O | C7H14N2O
reactant | di-tert-butyl-dicarbonate | 7.38 mmol, 1.714 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | tert-butyl (7R,8aS)-7-hydroxyhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | O[C@@H]1C[C@@H]2N(CCN(C2)C(=O)OC(C)(C)C)C1 | C12H22N2O3
